US06617346B1
To a solution of 1-bromo-4-methoxy-2-propoxy-benzene (500 mg, 2.04 mmol) in dimethylformamide (10 mL) at room temperature was added zinc cyanide (240 mg, 2.04 mmol). The reaction mixture was degassed by passing argon through for 2 h before tetrakis(triphenylphosphine)palladium (236 mg, 0.204 mmol) was added. The reaction mixture was heated at 90-100° C. under argon for 12 h. The reaction mixture was taken up in diethyl ether (10 mL) and sodium bicarbonate solution (2 mL). The product was extracted with diethyl ether (2×20 mL). The organic layers were washed with water (1×5 mL), brine (1×5 mL), and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 15-20% ethyl acetate in hexanes yielded 4-methoxy-2-propoxy-benzonitrile (290 mg, 74%) as white solids.

reactant | 1-bromo-4-methoxy-2-propoxy-benzene | 2.04 mmol, 500 mg | BrC1=C(C=C(C=C1)OC)OCCC | C10H13BrO2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
catalyst | zinc cyanide | 2.04 mmol, 240 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.204 mmol, 236 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methoxy-2-propoxy-benzonitrile | 290 mg, 74% | COC1=CC(=C(C#N)C=C1)OCCC | C11H13NO2
